US05571843
2-[4-(3-fluorophenyl)-semicarbazono]indan=1,3-dione
ninhydrin, 4-(3-fluorophenyl)-semicarbazide hydrochloride

reactant | ninhydrin | C1=CC=C2C(=C1)C(=O)C(C2=O)(O)O | C9H6O4
reactant | 4-(3-fluorophenyl)-semicarbazide hydrochloride | Cl.FC=1C=C(C=CC1)NC(NN)=O
product | 2-[4-(3-fluorophenyl)-semicarbazono]indan | FC=1C=C(C=CC1)NC(NN=C1CC2=CC=CC=C2C1)=O | C16H14FN3O
